US06197729B1
e) 4-(1-hydroxy-2,2,2-trifluoroethyl)cyclohexanone
At room temperature, 56.2 g (284 mmol) of 4-(1-hydroxy-2,2,2-trifluoroethyl)cyclohexanol and 91.7 g of pyridinium chlorochromate were stirred in 1 l of dichloromethane for 8 hours. The solvent was removed under reduced pressure and the residue was purified by filtration through silica gel (heptane/ethyl acetate 1:1), to give the title product as a colourless oil.

reactant | 4-(1-hydroxy-2,2,2-trifluoroethyl)cyclohexanol | 284 mmol, 56.2 g | OC(C(F)(F)F)C1CCC(CC1)O | C8H13F3O2
reactant | pyridinium chlorochromate | 91.7 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | dichloromethane | 1 l | ClCCl | CH2Cl2
product | 4-(1-hydroxy-2,2,2-trifluoroethyl)cyclohexanone | OC(C(F)(F)F)C1CCC(CC1)=O | C8H11F3O2
